US06716491B2
9.5 g of 1,1-thiocarbonyldiimidazole are added to 85 g of 4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenylamine in 100 ml of dichloromethane, and the mixture is stirred at RT. Conventional work-up gives 4′-(3,5-difluoro-4-isothiocyanatophenyl)-4-ethylbicyclohexyl, yield 59%, having the following properties: C 33 N 198.2 I; Δε 15.3; Δn 0.1930.

reactant | 1,1-thiocarbonyldiimidazole | 9.5 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | 4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenylamine | 85 g | C(C)C1CCC(CC1)C1CCC(CC1)C1=CC(=C(C(=C1)F)N)F | C20H29F2N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4′-(3,5-difluoro-4-isothiocyanatophenyl)-4-ethylbicyclohexyl | yield 59% | FC=1C=C(C=C(C1N=C=S)F)C1CCC(CC1)C1CCC(CC1)CC | C21H27F2NS
